US08110580B2
2-(5-Bromo-4-methyl-thiophen-2-yl)-6-methyl-pyridine
Add 2.0 M lithium diisopropylamide (9.76 mL, 19.52 mmol) to a −78° C. solution of 2-bromo-3-methyl-thiophene (2.0 mL, 17.75 mmol) and THF (30 mL). After 45 minutes add ZnCl2 (0.5 M in THF, 39.0 mL, 19.50 mmol) and stir the solution for 30 min. Add 2-bromo-6-methyl-pyridine (2.4 mL, 21.29 mmol) and Pd(PPh3)4 (0.50 g, 0.44 mmol). Warm the solution to ambient temperature and stir for 2 h. Wash the reaction with saturated NH4Cl solution (20 mL). Wash the aqueous layer with CH2Cl2 (30 mL). Combine the organic layers, wash with saturated NH4Cl solution (20 mL), dry over Na2SO4, filter and concentrate. Purify the resulting residue by silica gel column chromatography (10%-20% EtOAc/hexane gradient) to furnish the title compound (2.34 g, 49%). LC-ES/MS m/z (79Br/81Br) 267.7/269.5 (M+H)+.

reactant | lithium diisopropylamide | 19.52 mmol, 2.0 M, 9.76 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-bromo-3-methyl-thiophene | 17.75 mmol, 2.0 mL | BrC=1SC=CC1C | C5H5BrS
reactant | 2-bromo-6-methyl-pyridine | 21.29 mmol, 2.4 mL | BrC1=NC(=CC=C1)C | C6H6BrN
catalyst | ZnCl2 | 19.50 mmol, 0.5 M, 39.0 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.44 mmol, 0.50 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(5-Bromo-4-methyl-thiophen-2-yl)-6-methyl-pyridine | 2.34 g, 49% | BrC1=C(C=C(S1)C1=NC(=CC=C1)C)C | C11H10BrNS
